US07091352B2
1) (±)-7-Amino-1,2,3,5,6,7,8,8a-octahydroindolizine
(±)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one (5.0 g, 35.9 mmol) was dissolved in a solution of 2M ammonia/ethanol (54 ml, 108 mmol calculated in terms of ammonia). The resulting solution was stirred at room temperature in an atmosphere of hydrogen in the presence of 10% palladium on charcoal (500 mg) for 4 hours. At the end of this time, the reaction mixture was filtered to remove the catalyst and the filtrate was concentrated by evaporation under reduced pressure, to give the title compound (4.91 g) as a colorless oil (yield 98%).

reactant | (±)-1,2,3,5,6,7,8,8a-octahydroindolizin-7-one | 35.9 mmol, 5.0 g | C1CCN2CCC(CC12)=O | C8H13NO
reactant | ammonia ethanol | 108 mmol, 2M, 54 ml | N.C(C)O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 500 mg | [Pd] | Pd
product | (±)-7-Amino-1,2,3,5,6,7,8,8a-octahydroindolizine | 4.91 g, yield 98% | NC1CCN2CCCC2C1 | C8H16N2
